US09314464B2
To a solution of 2-(ethoxymethylene)malononitrile (15.2 g, 0.124 mole) in 100 ml toluene was added Intermediate 1-benzylidene-2-ethylhydrazine (18.4 g, 0.124 mole). The mixture was allowed to stand at room temperature, and a precipitate formed. The reaction mixture was stirred for an additional 16 h. The precipitate was collected on a filter and washed with a small amount of cold ethanol to obtain 2-((2-benzylidene-1-ethylhydrazinyl)methylene)malononitrile as a solid.

reactant | 2-(ethoxymethylene)malononitrile | 0.124 mole, 15.2 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 1-benzylidene-2-ethylhydrazine | 0.124 mole, 18.4 g | C(C1=CC=CC=C1)=NNCC | C9H12N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-((2-benzylidene-1-ethylhydrazinyl)methylene)malononitrile | C(C1=CC=CC=C1)=NN(CC)C=C(C#N)C#N | C13H12N4
